US04029657
6,7-Dichloro-3,4-dihydro-2H-pyrazino(2,3-b)(1,4)oxazine
(2-Hydroxyethylamino)-trichloropyrazine (12.1 g, 0.05 mol) and crushed KOH (5 g, 85% assay, 0.075 mol) were contacted in refluxing benzene overnight. The solid phase was filtered out and stirred in water, CH2Cl2, and IPA and refiltered after each wash to give 3 g (30% yield) of an off-white solid.

reactant | (2-Hydroxyethylamino)-trichloropyrazine | 0.05 mol, 12.1 g | OCCNC1=C(N=C(C(=N1)Cl)Cl)Cl | C6H6Cl3N3O
reactant | KOH | 0.075 mol, 5 g | [OH-].[K+]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 6,7-Dichloro-3,4-dihydro-2H-pyrazino(2,3-b)(1,4)oxazine | 3 g, 30% yield | ClC1=NC2=C(OCCN2)N=C1Cl | C6H5Cl2N3O
